US05705516
2-Mercaptothiazole (11.7 g) in acetone (30 cm3) containing 1,4-dibromo-1,1,2-trifluorobutane (27.0 g) was treated portionwise with anhydrous potassium carbonate (13.8 g) under an atmosphere of nitrogen. The reaction was stirred for 1.5 hours, filtered and the insolubles washed with further acetone (4×25 cm3). The filtrate was evaporated under reduced pressure and the residue fractionated by chromatography (silica, eluant 10% ethyl acetate in hexane) to give 2-(4-bromo-3,4,4-trifluorobutylthio)thiazole (29.5 g). 1H NMR: δ 2.2-2.5(2H,m); 3.2-3.6(2H,m); 4.7-5.0(1H,m); 7.23(1H,d); 7.68(1H,d).

reactant | 2-Mercaptothiazole | 11.7 g | SC=1SC=CN1 | C3H3NS2
reactant | 1,4-dibromo-1,1,2-trifluorobutane | 27.0 g | BrC(C(CCBr)F)(F)F | C4H5Br2F3
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 cm3 | CC(=O)C | C3H6O
product | 2-(4-bromo-3,4,4-trifluorobutylthio)thiazole | 29.5 g | BrC(C(CCSC=1SC=CN1)F)(F)F | C7H7BrF3NS2
